US04014936
1,1a,6,10b-Tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one O-[2-(dimethylamino)ethyl]oxime hydrochloride
1,1a,6,10b-Tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one O-[2-(dimethylamino)ethyl]oxime prepared as in Example 1 was dissolved in ether and saturated with anhydrous hydrogen chloride. The precipitate was filtered and thoroughly washed with ether. The product was recrystallized from acetonitrile, and dried at 100° (0.1 mm), mp 169°-171° .

reactant | 1,1a,6,10b-Tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one O-[2-(dimethylamino)ethyl]oxime | CN(CCON=C1C2=C(C3C(C4=C1C=CC=C4)C3)C=CC=C2)C | C20H22N2O
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1,1a,6,10b-Tetrahydrodibenzo[a,e]cyclopropa[c]cyclohepten-6-one O-[2-(dimethylamino)ethyl]oxime hydrochloride | Cl.CN(CCON=C1C2=C(C3C(C4=C1C=CC=C4)C3)C=CC=C2)C | InChI=1S/C20H22N2O.ClH/c1-22(2)11-12-23-21-20-16-9-5-3-7-14(16)18-13-19(18)15-8-4-6-10-17(15)20;/h3-10,18-19H,11-13H2,1-2H3;1H
